US05219874
Anhydrous potassium carbonate (2.76 g) was added to a stirred solution of 4-chloro-2-cyanophenol (1.53 g) and 2-bromo-2-methyl propanal (2.26 g) in THF (50 ml) and the mixture heated at reflux for 5 hours. The mixture was then cooled to 4° C., the suspended solid removed by filtration and the filtrate evaporated to give a yellow oil which crystallised on standing. The solid was triturated with hexane and collected by filtration to give 2-(4-chloro-2-cyanophenoxy)-2-methylpropanal (2.11 g), m.p. 85°-88° C.; NMR: 1.52(6H,s), 6.79(1H,d,J=8 Hz), 7.42(1H,dd,J=8,2.5 Hz), 7.57(1H,d,J=2.5 Hz), 9.80(1H,s).

reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-2-cyanophenol | 1.53 g | ClC1=CC(=C(C=C1)O)C#N | C7H4ClNO
reactant | 2-bromo-2-methyl propanal | 2.26 g | BrC(C=O)(C)C | C4H7BrO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(4-chloro-2-cyanophenoxy)-2-methylpropanal | 2.11 g | ClC1=CC(=C(OC(C=O)(C)C)C=C1)C#N | C11H10ClNO2
